US07196099B2
Morpholine-4-carboxylic acid [1-(4-hydroxy-pyrrolidin-3-ylcarbamoyl)-2-phenylmethanesulfonyl-ethyl]-amide TFA salt (215 mg, 0.39 mmol) was dissolved in 1,4-dioxane (20 mL). Saturated aqueous NaHCO3 solution (10 mL) was added followed by benzoyl chloride (0.2 mL, 1.72 mmol). The mixture was stirred at ambient temperature for 1 hour and then extracted with ethyl acetate. The combined organic layers were washed with saturated aqueous NaHCO3 and brine, dried with MgSO4 and evaporated under vacuum. The residue was purified by flash chromatography on silica gel (Eluent: 5% methanol in ethyl acetate to 20% methanol in ethyl acetate) to yield morpholine-4-carboxylic acid [1-(1-benzoyl-4-hydroxy-pyrrolidin-3-ylcarbamoyl)-2-phenylmethane-sulfonyl-ethyl]-amide (92mg).

reactant | Morpholine-4-carboxylic acid [1-(4-hydroxy-pyrrolidin-3-ylcarbamoyl)-2-phenylmethanesulfonyl-ethyl]-amide TFA salt | 0.39 mmol, 215 mg | OC(=O)C(F)(F)F.OC1C(CNC1)NC(=O)C(CS(=O)(=O)CC1=CC=CC=C1)NC(=O)N1CCOCC1
reactant | NaHCO3 | 10 mL | C(=O)(O)[O-].[Na+]
reactant | benzoyl chloride | 1.72 mmol, 0.2 mL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | 1,4-dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | morpholine-4-carboxylic acid [1-(1-benzoyl-4-hydroxy-pyrrolidin-3-ylcarbamoyl)-2-phenylmethane-sulfonyl-ethyl]-amide | 92mg | C(C1=CC=CC=C1)(=O)N1CC(C(C1)O)NC(=O)C(CS(=O)(=O)CC1=CC=CC=C1)NC(=O)N1CCOCC1 | C26H32N4O7S
